US07064215B2
Synthesis of 3-[6-(4-Methyl-piperazin-1-yl)-1H-benzoimidazol-2-yl]-5-(5-nitro-pyridin-2-yloxy)-1H-indazole-
The title compound was synthesized from 5-(5-nitro-pyridin-2-yloxy)-1H-indazole-3-carbaldehyde and 4-(4-methyl-piperazin-1-yl)-benzene-1,2-diamine using the method described above in Example 4. LC/MS (m/z) 471.3 (MH+), Rt 2.94 minutes.

reactant | 5-(5-nitro-pyridin-2-yloxy)-1H-indazole-3-carbaldehyde | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2C(=NNC2=CC1)C=O | C13H8N4O4
reactant | 4-(4-methyl-piperazin-1-yl)-benzene-1,2-diamine | CN1CCN(CC1)C=1C=C(C(=CC1)N)N | C11H18N4
product | 3-[6-(4-Methyl-piperazin-1-yl)-1H-benzoimidazol-2-yl]-5-(5-nitro-pyridin-2-yloxy)-1H-indazole- | CN1CCN(CC1)C=1C=CC2=C(NC(=N2)C2=NNC3=CC=C(C=C23)OC2=NC=C(C=C2)[N+](=O)[O-])C1 | C24H22N8O3
